US04443452
5,10-Dihydro-5-{[(1-methyl-4-piperidinyl)oxy]carbonyl}-11H-dibenzo[b,e][1,4]diazepin-11-one
A quantity of 4.1 gm (0.015 mol) of 5-chlorocarbonyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one was refluxed with 3.45 gm (0.03 mol) of 1-methyl-4-piperidinol in 50 ml of chlorobenzene for two hours. After cooling, the reaction solution was diluted by the addition of 200 ml of ethyl acetate and then extracted exhaustively with 15% hydrochloric acid. The combined extracts were neutralized with potassium carbonate and extracted several times with chloroform, and the combined chloroform extracts were evaporated to dryness in vacuo. By recrystallization from ethyl acetate, colorless crystals were obtained, m.p.: 203°-204° C. Yield: 1.2 gm (23% of theory).

reactant | 5-chlorocarbonyl-5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | 0.015 mol, 4.1 gm | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C14H9ClN2O2
reactant | 1-methyl-4-piperidinol | 0.03 mol, 3.45 gm | CN1CCC(CC1)O | C6H13NO
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 5,10-Dihydro-5-{[(1-methyl-4-piperidinyl)oxy]carbonyl}-11H-dibenzo[b,e][1,4]diazepin-11-one | CN1CCC(CC1)OC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C20H21N3O3
